US07115611B2
E] Methanesulfonic acid 2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylmethyl Ester
2.60 g (9.7 mmol) of [2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-methanol (example 1M]) were dissolved in 50 ml MeCl2 and cooled down to 0° C. 2.55 ml=1.93 g (14.6 mmol) of N-ethyl diisopropylamine was added, followed by 0.85 ml=1.25 g (10.7 mmol) of methane sulfonylchloride, drop by drop. After stirring for 30 min. at ambient temperature, the reaction mixture was poured into crashed ice and extracted twice with MeCl2. The combined organic phases were washed with water and brine, dried over anhydrous magnesium sulfate and evaporated. This gave 3.44 g of crude title compound as yellow solid.

reactant | [2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-methanol | 9.7 mmol, 2.60 g | CC1=NC(=CC=C1CO)C1=CC=C(C=C1)C(F)(F)F | C14H12F3NO
reactant | N-ethyl diisopropylamine | 14.6 mmol, 1.93 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | methane sulfonylchloride | 10.7 mmol, 1.25 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | MeCl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | Methanesulfonic acid 2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylmethyl Ester | CC1=NC(=CC=C1COS(=O)(=O)C)C1=CC=C(C=C1)C(F)(F)F | C15H14F3NO3S
